US08008501B2
5-Methyl-3-phenylisoxazole-4-carbonyl chloride (100 mg) and 4-hydroxy-2-methylquinoline (250 mg) were dissolved in dichlorormethane (10 mL) and pyridine (0.2 mL). The reaction solution was heated at 70° C. overnight and then diluted with ethyl acetate (60 mL). The organic solution was washed with water (60 mL), dried, evaporated and purified by flash column chromatography (EtOAc/hexanes=1/2) to give 5-methyl-3-phenyl-4-isoxazolecarboxylic acid, 2-methyl-4-quinolinyl ester (100 mg). 1H NMR (CDCl3): δ 2.74 (s, 3H), 2.91 (s, 3H), 7.29 (s, 1H), 7.33-7.46 (m, 5H), 7.64-7.71 (m, 3H), 8.01 (td, J=0.9 and 8.4 Hz, 1H); LCMS: ret. time: 23.10 min.; purity: 100%; MS (m/e): 345.02 (MH+).

reactant | 5-Methyl-3-phenylisoxazole-4-carbonyl chloride | 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)Cl | C11H8ClNO2
reactant | 4-hydroxy-2-methylquinoline | 250 mg | OC1=CC(=NC2=CC=CC=C12)C | C10H9NO
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 5-methyl-3-phenyl-4-isoxazolecarboxylic acid, 2-methyl-4-quinolinyl ester | 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)OC1=CC(=NC2=CC=CC=C12)C | C21H16N2O3
